US05185251
Step C: Preparation of 2-benzyloxy-3-cyano-5-ethyl-6-benzyloxymethylpyridine
To a partial suspension of 3-cyano-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone (1.36 g, 5.08 mmol) in dry benzene (20 mL) was added benzyl bromide (0.80 mL, 6.7 mmol) and then silver carbonate (1.43 g, 5.2 mmol). This mixture was covered with aluminum foil and allowed to stir at room temperature. After 24 hours, the reaction was estimated to be ~80% complete. Additional silver carbonate (0.40 g, 1.45 mmol) was added and the mixture was stirred for another 24 hours until complete. The silver salts were removed by filtration, rinsed with benzene and the combined benzene washings were evaporated to give the pure product as an oil.

reactant | 3-cyano-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone | 5.08 mmol, 1.36 g | C(#N)C=1C(NC(=C(C1)CC)COCC1=CC=CC=C1)=O | C16H16N2O2
reactant | benzyl bromide | 6.7 mmol, 0.80 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | aluminum | [Al] | Al
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
catalyst | silver carbonate | 5.2 mmol, 1.43 g | C([O-])([O-])=O.[Ag+2]
catalyst | silver carbonate | 1.45 mmol, 0.40 g | C([O-])([O-])=O.[Ag+2]
product | 2-benzyloxy-3-cyano-5-ethyl-6-benzyloxymethylpyridine | C(C1=CC=CC=C1)OC1=NC(=C(C=C1C#N)CC)COCC1=CC=CC=C1 | C23H22N2O2
